US08748612B2
To a solution of 4-fluoro-2-(1-methylcyclohexyl)phenol (23.5 g, 113 mmol), TEA (31 mL, 226 mmol) and DMAP (700 mg, 5.7 mmol) in CH2Cl2 (250 mL) was added methyl chloroformate dropwise at 0° C. The mixture was allowed to warm to room temperature and stirred for 2 hours. The reaction mixture was poured onto crushed ice and extracted with CH2Cl2 (100 mL×3). The organic layer was washed with brine, dried over MgSO4, evaporated under vacuum. The crude product was purified by chromatography on silica gel diluted with (hexane:ethyl acetate=100:1) to give 4-fluoro-2-(1-methylcyclohexyl)phenyl methyl carbonate as red brown oil (43.9 g, 72.1% yield). 1H NMR (400 MHz, CDCl3) δ 7.10 (dd, J=3.2, 11.2 Hz, 1H), 7.05-7.02 (m, 1H), 6.93-6.88 (m, 1H), 3.91 (s, 3H), 2.02-1.96 (m, 2H), 1.66-1.36 (m, 8H), 1.23 (s, 3H).

reactant | 4-fluoro-2-(1-methylcyclohexyl)phenol | 113 mmol, 23.5 g | FC1=CC(=C(C=C1)O)C1(CCCCC1)C | C13H17FO
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
catalyst | DMAP | 5.7 mmol, 700 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-2-(1-methylcyclohexyl)phenyl methyl carbonate | 43.9 g, 72.1% yield | C(OC1=C(C=C(C=C1)F)C1(CCCCC1)C)(OC)=O | C15H19FO3
